US08114868B2
A mixture of (R)-6-allyl-3-((S)-1-(4-bromophenyl)ethyl)-6-phenyl-1,3-oxazinan -2-one (150 mg, 0.375 mmol) and 6-aminopyridin-3-ylboronic acid (56 mg, 0.45 mmol), Pd(Ph3P)2Cl2 (15 mg), and aqueous Cs2CO3 solution (0.5 mL, 2 M) in 1,4-dioxane (10 mL) was stirred and heated to reflux for 2 h. The organic phase was separated, and concentrated to give the crude product, which was purified by preparative HPLC to give (R)-6-allyl-3-((S)-1-(4-(6-aminopyridin-3-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan -2-one (90 mg, 60%).

reactant | (R)-6-allyl-3-((S)-1-(4-bromophenyl)ethyl)-6-phenyl-1,3-oxazinan -2-one | 0.375 mmol, 150 mg | C(C=C)[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)Br)C1=CC=CC=C1 | C21H22BrNO2
reactant | 6-aminopyridin-3-ylboronic acid | 0.45 mmol, 56 mg | NC1=CC=C(C=N1)B(O)O | C5H7BN2O2
reactant | Cs2CO3 | 2 M, 0.5 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)2Cl2 | 15 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (R)-6-allyl-3-((S)-1-(4-(6-aminopyridin-3-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan -2-one | 90 mg, 60% | C(C=C)[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C=1C=NC(=CC1)N)C1=CC=CC=C1 | C26H27N3O2
